US07598383B2
4-(4-Bromo-2-fluorophenylamino)-1,3-dimethyl-5-(5-oxo-4,5-dihydro-[1,3,4]oxadiazol-2-yl)-1H-pyridin-2-one
1,1′-Carbonyldiimidazole (275 mg, 1.70 mmol) was added to a stirred solution of 4-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid hydrazide (728 mg, 1.62 mmol (82% pure material)) in DMF (2 mL). After 1 hour, the reaction mixture was diluted with ethyl acetate and washed with brine. Some of the product precipitated and was collected by filtration. The filtrate was diluted with 1 N HCl and the layers separated. The aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated under reduced pressure. The resulting residue was triturated with diethyl ether to give the desired product which was combined with the earlier obtained product. The combined yield of clean desired product was 482 mg (75%); MS APCI (−) m/z 393, 395 (M−, Br pattern) detected; 1H NMR (400 MHz, DMSO-d6) δ 8.22 (s, 1H), 7.88 (s, 1H), 7.50 (dd, 1H), 7.21 (d, 1H), 6.59 (t, 1H), 3.52 (s, 3H), 1.76 (s, 3H).

reactant | 1,1′-Carbonyldiimidazole | 1.70 mmol, 275 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid hydrazide | 1.62 mmol, 728 mg | BrC1=CC(=C(C=C1)NC=1C(=CN(C(C1C)=O)C)C(=O)NN)F | C14H14BrFN4O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Bromo-2-fluorophenylamino)-1,3-dimethyl-5-(5-oxo-4,5-dihydro-[1,3,4]oxadiazol-2-yl)-1H-pyridin-2-one | BrC1=CC(=C(C=C1)NC1=C(C(N(C=C1C=1OC(NN1)=O)C)=O)C)F | C15H12BrFN4O3
